US07538101B2
Step 5: 4-[2-(1,1-Dioxo-1λ6-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indol-5-yloxy]-piperidine-1-carboxylic acid tert-butyl ester
To a cold (0° C.) mixture of (1,1-dioxo-1λ6-thiomorpholin-4-yl)-(5-hydroxy-1-isopropyl-1H-indol-2-yl)-methanone (890 mg, 1.0 eq.), 1-tert-butyloxycarbonyl-4-hydroxy-piperidine (659 mg, 1.2 eq.) and triphenylphosphine (858 mg, 1.2 eq.) in tetrahydrofuran (6 mL) was added dropwise a solution of di-tert-butyl-azodicarboxylate (746 mg, 1.0 eq.) in tetrahydrofuran (4 mL). The reaction mixture was stirred for 15 h at room temperature, concentrated in vacuo, then purified on silica eluting with a gradient of cyclohexane/ethyl acetate. One fraction was isolated to yield 434 mg (31.6%) of the desired product as white oil. MS (m/e): 520.7 (MH+, 100%).

reactant | (1,1-dioxo-1λ6-thiomorpholin-4-yl)-(5-hydroxy-1-isopropyl-1H-indol-2-yl)-methanone | 890 mg, 1.0 eq. | O=S1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)O)C(C)C)=O | C16H20N2O4S
reactant | 1-tert-butyloxycarbonyl-4-hydroxy-piperidine | 659 mg, 1.2 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 858 mg, 1.2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl-azodicarboxylate | 746 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-[2-(1,1-Dioxo-1λ6-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indol-5-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 434 mg, 31.6% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCS(CC1)(=O)=O | C26H37N3O6S
